### PR TITLE
progress

### PR DESCRIPTION
**Pull request by traiansf**
Attempting an alternate approach to defining byzantine traces.

### CODE REVIEW

File: theories/VLSM/Lib/ListExtras.v [hunk 1]
```diff
@@ -1,9 +1,22 @@
...
+  (g : B -> C)
+  : map (g ∘ f) = map g ∘ map f.
+Proof.
+  extensionality l.
+  induction l; [reflexivity|]; cbn.
+  rewrite IHl.
+  reflexivity.
+Qed.
+
+
```
Comment (wkolowski) [inline theories/VLSM/Lib/ListExtras.v:19]:
```suggestion
  extensionality l.
  induction l; cbn; rewrite ?IHl; reflexivity.
Qed.

```

File: theories/VLSM/Lib/ListExtras.v [hunk 2]
```diff
@@ -1268,6 +1281,32 @@ Definition map_option
...
+  (f : A -> B)
+  (g : B -> option C)
+  : map_option (g ∘ f) = map_option g ∘ map f.
+Proof.
+  extensionality l.
+  induction l; [reflexivity|].
+  cbn.
+  rewrite IHl.
+  reflexivity.
+Qed.
```
Comment (wkolowski) [inline theories/VLSM/Lib/ListExtras.v:1295]: Again, I would give it a shorter name and try to avoid `extensionality`.

```suggestion
Lemma map_option_comp_r
  [A B C : Type] (f : A -> B) (g : B -> option C) :
    map_option (g ∘ f) = map_option g ∘ map f.
Proof.
  extensionality l.
  induction l; cbn; rewrite ?IHl; reflexivity.
Qed.
```

File: theories/VLSM/Lib/ListExtras.v [hunk 3]
```diff
@@ -1268,6 +1281,32 @@ Definition map_option
...
+
+Lemma map_option_composed_left
```
Comment (wkolowski) [inline theories/VLSM/Lib/ListExtras.v:1297]:
```suggestion
Lemma map_option_comp_l
```

File: theories/VLSM/Core/SubProjectionTraces.v [hunk 4]
```diff
@@ -376,6 +386,26 @@ Proof.
...
+Proof.
+  apply basic_VLSM_strong_incl.
+  2: cbv; intuition.
+  - intros s (sX & <- & HsX) sub_i.
+    destruct_dec_sig sub_i i Hi Heqsub_i.
+    subst.
+    apply (HsX i).
+  - intros (sub_i, li) s om Hv.
+    split; [|exact I].
+    cbn.
```
Comment (wkolowski) [inline theories/VLSM/Core/SubProjectionTraces.v:400]:
```suggestion
  - intros s (sX & <- & HsX) sub_i.
    destruct_dec_sig sub_i i Hi Heqsub_i.
    subst. apply HsX.
  - cbv; intuition.
  - intros (sub_i, li) s om Hv.
    split; [cbn |exact I].
```

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 5]
```diff
@@ -75,23 +75,33 @@ Context
...
 Lemma fixed_byzantine_IM_no_initial_messages
   : forall i m, ~vinitial_message_prop (fixed_byzantine_IM i) m.
 Proof.
   unfold fixed_byzantine_IM, update_IM. simpl.
   intros i m Hm.
-  case_decide.
-  - cbn in Hm. assumption.
+  case_decide as Hi.
+  - elim (no_initial_messages_in_byzantine_IM (dexist i Hi) m). assumption.
   - elim (no_initial_messages_in_IM i m). assumption.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:105]: Personally, I don't like `case_decide` (I'm not even sure what it does; does it come from StdLib or from Stdpp?). I also think `elim` is a code smell, as it is an outdated version of `induction` (https://coq.inria.fr/refman/proofs/writing-proofs/reasoning-inductives.html#coq:tacn.elim). In your use case, it's better to directly point out the contradiction.

@palmskog Do you agree that we should avoid `elim`?

I would write this as follows (can't add a suggestion):
```coq
  unfold fixed_byzantine_IM, update_IM.
  intros i m.
  destruct (decide (i ∈ byzantine)).
  - apply no_initial_messages_in_byzantine_IM.
  - apply no_initial_messages_in_IM.
```

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 6]
```diff
@@ -101,11 +111,15 @@ Proof.
...
-    inversion Ht.
-    subst; assumption.
+  - apply can_emit_signed_byzantine in Hm. revert Hm.
+    unfold channel_authenticated_message, sub_IM_A, sub_IM_sender.
+    destruct (sender m) as [v|]; [|inversion 1].
+    case_decide as HAv; [|inversion 1].
+    cbn.
+    intro Heq.
+    apply Some_inj, dec_sig_eq_iff in Heq.
+    simpl in Heq.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:121]:
```suggestion
    intros Heq%Some_inj%dec_sig_eq_iff; cbn in *..
```

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 7]
```diff
@@ -143,25 +139,142 @@ Definition non_byzantine_not_equivocating_constraint
...
+  specialize
+    (pre_definitions_projection_relation_left_trace
+      (composite_type (sub_IM fixed_byzantine_IM non_byzantine))
+      (composite_type (sub_IM IM non_byzantine))
+      (same_IM_label_rew non_byzantine_nodes_same)
+      (same_IM_state_rew non_byzantine_nodes_same)
+      (composite_type fixed_byzantine_IM)
+      (composite_label_sub_projection_option fixed_byzantine_IM non_byzantine)
+      (composite_state_sub_projection fixed_byzantine_IM non_byzantine))
+    as Hrew.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:241]: This obviously looks bad, isn't there any way to avoid writing it out in full?

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 8]
```diff
@@ -185,13 +298,14 @@ Qed.
...
   : VLSM_incl fixed_non_byzantine_projection (pre_loaded_with_all_messages_vlsm (free_composite_vlsm (sub_IM fixed_byzantine_IM non_byzantine))).
 Proof.
-  apply basic_VLSM_strong_incl; intro; intros.
-  - apply fixed_non_byzantine_projection_initial_state_preservation. assumption.
-  - exact I.
-  - split; [|exact I].
-    revert H.
+  apply basic_VLSM_strong_incl.
+  - intros is. apply fixed_non_byzantine_projection_initial_state_preservation.
+  - intros m Hm. exact I.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:303]: A bit less mysterious:

```suggestion
  - intros m Hm. compute. trivial.
```

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v [hunk 9]
```diff
@@ -215,6 +329,30 @@ Proof.
...
+  (tr : list (composite_transition_item (sub_IM IM non_byzantine)))
+  : Prop :=
+  exists
+    (byzantine_replacements_IM : sub_index byzantine -> VLSM message)
+    (no_initial_messages_in_byzantine_IM : no_initial_messages_in_IM_prop byzantine_replacements_IM)
+    (can_emit_signed_byzantine : channel_authentication_prop byzantine_replacements_IM (sub_IM_A byzantine A) (sub_IM_sender byzantine A sender)),
+  exists bis btr,
+  finite_valid_trace (fixed_byantine_composite_vlsm byzantine_replacements_IM) bis btr /\
+  pre_loaded_fixed_non_byzantine_state_projection byzantine_replacements_IM bis = is /\
+  VLSM_projection_trace_project (pre_loaded_fixed_non_byzantine_vlsm_projection byzantine_replacements_IM) btr = tr.
```
Comment (wkolowski) [inline theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:354]: This looks like a perfect thing to refactor into a `Record`, since you have already come up with the field names : )

```suggestion
Record fixed_byzantine_trace_prop
  (is : composite_state (sub_IM IM non_byzantine))
  (tr : list (composite_transition_item (sub_IM IM non_byzantine)))
  : Prop := {
  byzantine_replacements_IM : sub_index byzantine -> VLSM message;
  no_initial_messages_in_byzantine_IM : no_initial_messages_in_IM_prop byzantine_replacements_IM;
  can_emit_signed_byzantine : channel_authentication_prop byzantine_replacements_IM (sub_IM_A byzantine A) (sub_IM_sender byzantine A sender);
  bis : _;
  btr : _;
  eq_1 : finite_valid_trace (fixed_byantine_composite_vlsm byzantine_replacements_IM) bis btr;
  eq_2 : pre_loaded_fixed_non_byzantine_state_projection byzantine_replacements_IM bis = is;
  eq_3 : VLSM_projection_trace_project (pre_loaded_fixed_non_byzantine_vlsm_projection byzantine_replacements_IM) btr = tr;
}.
```

File: theories/VLSM/Lib/ListExtras.v [hunk 10]
```diff
@@ -1,9 +1,22 @@
 From stdpp Require Import prelude finite.
-From Coq Require Import FinFun.
+From Coq Require Import FinFun FunctionalExtensionality.
 From VLSM Require Import Lib.Preamble.
 
 (** * Utility lemmas about lists *)
 
+Lemma map_composed
```
[the remark this answers is not in the document]
Comment (traiansf) [reply theories/VLSM/Lib/ListExtras.v:7]: I kind of need it like this, as it's used somewhere where the composition is a parameter to a VLSM construct

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v (hunk 5 above)
Comment (traiansf) [reply theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:105]: `case_decide` is actually soemthing @palmskog  recommended when `case` over a decision is involved

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v (hunk 6 above)
Comment (traiansf) [reply theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:121]: I think @palmskog was against using projections in intro patterns, isn't that the case?

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v (hunk 7 above)
Comment (traiansf) [reply theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:241]: I tried, but it seems that Coq cannot rewrite with it in a simpler form). Maybe an alternative would be to use replace instead of rewrite and then maybe applying the lemma would work.

File: theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v (hunk 6 above)
Comment (wkolowski) [reply theories/VLSM/Core/ByzantineTraces/FixedSetByzantineTraces.v:121]: @traiansf

I thought it's worth it in this case. But if you think it's not you can write

```suggestion
    intros Heq; apply Some_inj, dec_sig_eq_iff in Heq; cbn in *.
```
